US07018685B2
40 ml of hydrogen peroxide (35 percent) is added dropwise at room temperature to a suspension of 54 mmol of 1,8-difluorofluorene-2-boronic acid in 120 ml of tert-butyl methyl ether and the mixture is subsequently heated to boiling for 4 h. After cooling, the mixture is admixed with 150 ml of water, the phases are separated and the organic phase is washed twice each with water and saturated sodium sulfite solution and also with saturated sodium chloride solution, so that no more peroxide can be detected. The organic phase is dried over sodium sulfate and the solvent is removed on a rotary evaporator. Recrystallization from heptane provides 1,8-difluorofluoren-2-ol.

reactant | hydrogen peroxide | 40 ml | OO | H2O2
reactant | 1,8-difluorofluorene-2-boronic acid | 54 mmol | FC1=C(C=CC=2C3=CC=CC(=C3CC12)F)B(O)O | C13H9BF2O2
reactant | water | 150 ml | O | H2O
solvent | tert-butyl methyl ether | 120 ml | COC(C)(C)C | C5H12O
product | 1,8-difluorofluoren-2-ol | FC1=C(C=CC=2C3=CC=CC(=C3CC12)F)O | C13H8F2O
